US07528160B2
4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid methyl ester (14 g, 40.1 mmol) is dissolved into anhydrous tetrahydrofuran (THF) (200 mL) and then cooled to −30° C. while stirring under nitrogen. N-methyl, N-methoxy amine hydrochloride (0.881 g, 9.04 mmol) is then added to the solution in one portion. Isopropyl magnesium chloride (8.73 mL, 2M soln. in THF, 17.46 mmol) is slowly added to the cooled suspension over 1 h. TLC will show complete consumption of starting material, then 30% solution of ammonium chloride is added with stirring. The reaction is diluted with diethyl ether and extracted. The organic layer is collected and washed with cold water (2×) and brine. The solution is then dried over anhydrous sodium sulfate, filtered, and concentrated. The 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid methoxy-methyl-amide (0.705 g, 1.97 mmol) is obtained in pure form after flash column chromatography.

reactant | 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid methyl ester | 40.1 mmol, 14 g | COC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(C)C | C15H14F3NO2S
reactant | N-methoxy amine hydrochloride | 9.04 mmol, 0.881 g | Cl.CON
reactant | Isopropyl magnesium chloride | 17.46 mmol, 2M, 8.73 mL | C(C)(C)[Mg]Cl
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid methoxy-methyl-amide | 1.97 mmol, 0.705 g | CON(C(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C(C)C)C | C16H17F3N2O2S
